US04007276
2-(m-Aminophenyl)-5H-s-triazolo[5,1-a] isoindole
2-(m-Nitrophenyl)-5H-s-triazolo[5,1-a] isoindole (7.7 g) is hydrogenated at atmospheric pressure and at room temperature in the presence of 2 g of 10% Pd on charcoal and 8 ml of 15% ethanolic hydrogen chloride. The product so obtained is purified by crystallization from ethanol. Yield 6.1 g (89%) of the title product which melts at 163-4°C.

reactant | 2-(m-Nitrophenyl)-5H-s-triazolo[5,1-a] isoindole | 7.7 g | [N+](=O)([O-])C=1C=C(C=CC1)C1=NN2C(C3=CC=CC=C3C2)=N1 | C15H10N4O2
reactant | hydrogen chloride | 8 ml | Cl | ClH
catalyst | Pd on charcoal | 2 g | [Pd] | Pd
product | 2-(m-Aminophenyl)-5H-s-triazolo[5,1-a] isoindole | NC=1C=C(C=CC1)C1=NN2C(C3=CC=CC=C3C2)=N1 | C15H12N4
